US07544697B2
A 2.5 M solution of n-butyl lithium in hexane (100 mL, 250 mmol) was added over 20 minutes to a stirred solution of tert-butyl pyridin-4-ylcarbamate (19.4 g, 100 mmol) and N,N,N′,N′-tetramethylethylenediamine (31.4 g, 270 mmol) in THF (500 mL) at −78° C. tert-Butyl pyridin-4-ylcarbamate is available from a literature procedure (Spivey, A. C. et al. J. Org. Chem. 1999, 64, 9430-9443). A white solid appeared and the mixture was stirred for 10 minutes at −78° C., then was allowed to warm slowly to −4° C. before cooling to −78° C. again. Trimethyl borate (39.5 g, 380 mmol) was added over 15 minutes. The solution was allowed to warm to 0° C., then was poured into saturated aqueous ammonium chloride (500 mL). The mixture was stirred for 2 minutes. After standing at ambient temperature overnight, the mixture was partitioned between diethyl ether and brine. The organic layer was separated and washed with brine. A white solid formed in the organic layer and was isolated by filtration. The solid was washed sequentially with diethyl ether, water, and diethyl ether, then was dried to provide 17.1 g of 4-[(tert-butoxycarbonyl)amino]pyridin-3-ylboronic acid as a white solid.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 250 mmol, 100 mL | CCCCCC | C6H14
reactant | tert-butyl pyridin-4-ylcarbamate | 100 mmol, 19.4 g | N1=CC=C(C=C1)NC(OC(C)(C)C)=O | C10H14N2O2
reactant | N,N,N′,N′-tetramethylethylenediamine | 270 mmol, 31.4 g | CN(CCN(C)C)C | C6H16N2
reactant | Trimethyl borate | 380 mmol, 39.5 g | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 4-[(tert-butoxycarbonyl)amino]pyridin-3-ylboronic acid | 17.1 g | C(C)(C)(C)OC(=O)NC1=C(C=NC=C1)B(O)O | C10H15BN2O4
